### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/InfiniteSum): uniform summability

### PR DESCRIPTION
**Pull request by CBirkbeck**
Define summability / multipliability uniformly on a set, or locally uniformly. 

Co-authored-by: David Loeffler <d.loeffler.01@cantab.net>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by CBirkbeck** [comment]
its still a WIP but maybe @loefflerd you can have a look and see what you think so far. I think we'll also want these local versions, since this is what comes up lots for modular forms.

**Comment by loefflerd** [comment]
Do we really need the totalized definitions `tprodUniformlyOn` etc? Since uniform convergence implies pointwise convergence, `∑ᵘ i, f i` will either be junk, or it will be equal to `fun x => ∑' i, f i x`. So I don't think we need a separate declaration for it (likewise `∏ᵘ`, `∑ˡᵘ`, `∏ˡᵘ`).

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 1]
```diff
@@ -0,0 +1,181 @@
...
+lemma ofFun_prod (f : ι → β → α) (g : β → α) (s : Set β) (i : Finset ι) :
+    ∏ b ∈ i, (UniformOnFun.ofFun {s}) (f b) = (UniformOnFun.ofFun {s}) (∏ b ∈ i, f b) := rfl
+
+variable [UniformSpace α]
+
+/-- `HasProdUniformlyOn f g` means that the (potentially infinite) product of the `f b` for `b : β`
+converges uniformly on `s` to `g`. -/
+@[to_additive]
+def HasProdUniformlyOn (f : ι → β → α) (g : β → α) (s : Set β) : Prop :=
+  HasProd (fun i ↦ UniformOnFun.ofFun {s} (f i)) (UniformOnFun.ofFun {s} g)
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean:41]: It is more general, and no more difficult, to allow a general set of sets (mirroring the existing "TendstoUniformlyOn" API), rather than just `{s}`. Then you can do e.g. `HasProdUniformlyOn f g (Compacts β)` or something like that, for uniform convergence on compacts (which should be equivalent to locally-uniform convergence when `β` is locally compact).

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 2]
```diff
@@ -0,0 +1,181 @@
...
+    ∏ᵘ[s] b, f b = 1 := by
+  simp [tprodUniformlyOn_def, h]
+
+@[to_additive]
+theorem tprodLocallyUniformlyOn_eq_one_of_not_multipliableLocallyUniformlyOn [TopologicalSpace β]
+    (h : ¬MultipliableLocallyUniformlyOn f s) :∏ˡᵘ[s] b, f b = 1 := by
+  simp [tprodLocallyUniformlyOn_def, h]
+
+@[to_additive]
+lemma HasProdUniformlyOn_iff_TendstoUniformlyOn : HasProdUniformlyOn f g s ↔
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean:135]: `hasProdUniformlyOn_iff_tendstoUniformlyOn` (lower camel case)

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 3]
```diff
@@ -0,0 +1,181 @@
...
+  rw [HasProdUniformlyOn, HasProd] at *
+  have H := UniformOnFun.tendsto_iff_tendstoUniformlyOn
+    (F := (fun s_1 ↦ ∏ b ∈ s_1, (UniformOnFun.ofFun {s}) (f b)))
+    (f:= (UniformOnFun.ofFun {s} g)) (p := atTop)
+  simp only [Set.mem_singleton_iff, UniformOnFun.toFun_ofFun, forall_eq] at H
+  convert H
+  simp
+
+@[to_additive]
+lemma HasProdLocallyUniformlyOn.TendstoLocallyUniformlyOn [TopologicalSpace β]
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean:146]:
```suggestion
lemma HasProdLocallyUniformlyOn.tendstoLocallyUniformlyOn [TopologicalSpace β]
```

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 4]
```diff
@@ -0,0 +1,181 @@
...
+  have H := UniformOnFun.tendsto_iff_tendstoUniformlyOn
+        (F := (fun s_1 ↦ ∏ b ∈ s_1, (UniformOnFun.ofFun {t}) (f b)))
+          (f:= (UniformOnFun.ofFun {t} g)) (p := atTop)
+  simp only [ofFun_prod, Set.mem_singleton_iff, UniformOnFun.toFun_ofFun, forall_eq] at *
+  rw [H, tendstoUniformlyOn_iff_tendsto] at htr
+  simp only [comp_apply, UniformOnFun.toFun_ofFun, Finset.prod_apply] at *
+  apply htr.mono_left (prod_mono (fun ⦃U⦄ a ↦ a) (le_principal_iff.mpr ht))
+
+@[to_additive]
+lemma HasProdLocallyUniformlyOn_iff_TendstoLocallyUniformlyOn [TopologicalSpace β]
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean:162]:
```suggestion
lemma hasProdLocallyUniformlyOn_iff_tendstoLocallyUniformlyOn [TopologicalSpace β]
```

**Review by loefflerd — COMMENTED** [review]
Here's some comments. This is deliberately superficial, I didn't actually read the proofs, just looked at the statements. As already expressed, I think you should get rid of everything involving `∏ᵘ` etc.

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean (hunk 1 above)
Comment (CBirkbeck) [reply Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean:41]: Unfortunately, `Compacts` has the wrong type for this. We could make it manually but maybe we dont bother.

**Comment by Ruben-VandeVelde** [comment]
Please expand on the PR title

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 5]
```diff
@@ -0,0 +1,172 @@
...
+-/
+
+section UniformlyOn
+
+variable (f g 𝔖)
+
+/-- `HasProdUniformlyOn f g 𝔖` means that the (potentially infinite) product `∏' i, f i b`
+for `b : β` converges uniformly on each `s` in a family of sets `𝔖` to `g`. -/
+@[to_additive "`HasSumUniformlyOn f g 𝔖` means that the (potentially infinite) sum `∑' i, f i b`
+for `b : β` converges uniformly on `s ∈ 𝔖` to `g`."]
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean:39]:
```suggestion
for `b : β` converges uniformly on each `s ∈ 𝔖` to `g`. -/
@[to_additive "`HasSumUniformlyOn f g 𝔖` means that the (potentially infinite) sum `∑' i, f i b`
for `b : β` converges uniformly on each `s ∈ 𝔖` to `g`."]
```

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 6]
```diff
@@ -0,0 +1,172 @@
...
+def HasProdUniformlyOn : Prop :=
+  HasProd (fun i ↦ UniformOnFun.ofFun 𝔖 (f i)) (UniformOnFun.ofFun 𝔖 g)
+
+/-- `MultipliableUniformlyOn f 𝔖` means that `f` converges uniformly on `s` to some infinite
+product. -/
+@[to_additive "`SummableUniformlyOn f s` means that `f` converges uniformly on `s` to some
+infinite sum."]
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean:46]: I tried to rephrase this in a way to ensure that its clear that the function to which the series converges does not depend on `s ∈ 𝔖`.

There should also be some comment (analogous to the one in the docstring of `Multipliable`) about using `tsum` to get the sum. Something like: "Use `fun x ↦ ∏' i, f i x` to get the product function."
```suggestion
/-- `MultipliableUniformlyOn f 𝔖` means that there is some infinite product to which
`f` converges uniformly on every `s ∈ 𝔖`. -/
@[to_additive "`SummableUniformlyOn f s` means that there is some infinite sum to 
which `f` converges uniformly on every `s ∈ 𝔖`."]
```

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 7]
```diff
@@ -0,0 +1,172 @@
...
+
+@[to_additive]
+theorem HasProdUniformlyOn.hasProd (h : HasProdUniformlyOn f g 𝔖) (hs : s ∈ 𝔖) (hx : x ∈ s) :
+    HasProd (f · x) (g x) :=
+  (hasProdUniformlyOn_iff_tendstoUniformlyOn.mp h s hs).tendsto_at hx
+
+@[to_additive]
+theorem HasProdUniformlyOn.tprod_eqOn [T2Space α] (h : HasProdUniformlyOn f g 𝔖) (hs : s ∈ 𝔖) :
+    s.EqOn (∏' b, f b ·) g :=
+  fun _ hx ↦ (h.hasProd hs hx).tprod_eq
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean:76]: Can you please provide a version that says `(∏' b, f b ·) = g` under the assumption `⋃₀ 𝔖 = Set.univ`?

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 8]
```diff
@@ -0,0 +1,172 @@
...
+
+end UniformlyOn
+
+section LocallyUniformlyOn
+/-!
+## Locally uniform convergence of sums and products
+-/
+
+variable (f g s) [TopologicalSpace β]
+
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean:99]: Can you do the same thing above too?
```suggestion
variable [TopologicalSpace β]

variable (f g s) in
```

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 9]
```diff
@@ -0,0 +1,172 @@
...
+for `b : β` converges locally uniformly on `s` to `g b` (in the sense of
+`TendstoLocallyUniformlyOn`). -/
+@[to_additive "`HasSumLocallyUniformlyOn f g s` means that the (potentially infinite) sum
+`∑' i, f i b` for `b : β` converges locally uniformly on `s` to `g b` (in the sense of
+`TendstoLocallyUniformlyOn`)."]
+def HasProdLocallyUniformlyOn : Prop :=
+  TendstoLocallyUniformlyOn (fun I b ↦ ∏ i ∈ I, f i b) g atTop s
+
+/-- `MultipliableLocallyUniformlyOn f s` means that the product `∏' i, f i b` converges locally
+uniformly on `s` to something. -/
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean:110]:
```suggestion

variable (f g s) in
/-- `MultipliableLocallyUniformlyOn f s` means that the product `∏' i, f i b` converges locally
uniformly on `s` to something. -/
```

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 10]
```diff
@@ -0,0 +1,172 @@
...
+@[to_additive "`SummableLocallyUniformlyOn f s` means that `∑' i, f i b` converges locally
+uniformly on `s` to something."]
+def MultipliableLocallyUniformlyOn : Prop := ∃ g, HasProdLocallyUniformlyOn f g s
+
+variable {f g s}
+
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean:116]:
```suggestion
```

File: Mathlib/Topology/Algebra/UniformConvergence.lean [hunk 11]
```diff
@@ -265,6 +265,11 @@ protected theorem UniformOnFun.hasBasis_nhds_one (𝔖 : Set <| Set α) (h𝔖
       { f : α →ᵤ[𝔖] G | ∀ x ∈ SV.1, f x ∈ SV.2 } :=
   UniformOnFun.hasBasis_nhds_one_of_basis 𝔖 h𝔖₁ h𝔖₂ (basis_sets _)
 
+@[to_additive (attr := simp)]
+lemma UniformOnFun.ofFun_prod {β : Type*} [CommMonoid β] {f : ι → α → β} (I : Finset ι) :
+    ∏ i ∈ I, ofFun 𝔖 (f i) = ofFun 𝔖 (∏ i ∈ I, f i) :=
+  rfl
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/UniformConvergence.lean:271]: The name suggests that this should point the other way, as does [UniformFun.ofFun_add](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/UniformConvergence.html#UniformFun.ofFun_add)

**Review by j-loreaux — COMMENTED** [review]
This looks pretty nice overall, but I may have some further comments.

File: Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean [hunk 12]
```diff
@@ -0,0 +1,181 @@
...
+  fun _ hx ↦ (h.hasProd hs hx).tprod_eq
+
+@[to_additive]
+theorem HasProdUniformlyOn.tprod_eqOn_univ [T2Space α] (h : HasProdUniformlyOn f g 𝔖)
+    (hs2 :⋃₀ 𝔖 = Set.univ) : (∏' b, f b ·) = g := by
+  ext1 x
+  have hx : x ∈ ⋃₀ 𝔖 := by
+    simp [hs2]
+  obtain ⟨s, hs, hx⟩ := Set.mem_sUnion.mp hx
+  refine h.tprod_eqOn hs hx
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/UniformOn.lean:85]:
```suggestion
  ext x
  obtain ⟨s, hs, hx⟩ := by simpa [← hs2] using Set.mem_univ x
  exact h.tprod_eqOn hs hx
```

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by j-loreaux** [comment]
bors merge

**Comment by j-loreaux** [comment]
bors merge
